US07960552B2
To 2.09 g (10.3 mmol) of methyl 7-hydroxy-3-isoquinolinecarboxylate in 50 mL of CH2Cl2 at 0° C. was added 3.60 mL (25.7 mmol) of TEA and 2.08 mL (12.3 mmol) of trifluoromethanesulfonic anhydride and the solution stirred at ambient temperature for 1.5 hr. The solvent was evaporated and the residue taken up in EtOAc. The organics were washed with H2O, then brine and dried over Na2SO4. The solvent was evaporated and the residue purified by silica gel chromatography (120 g of silica gel eluting with 0-70% EtOAc in hexanes over 45 minutes) to give 1.48 g of methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3-isoquinolinecarboxylate as a beige solid. 1H NMR (400 MHz, CDCl3): δ 9.40 (s, 1H), 8.65 (s, 1H), 8.11 (d, J=9 Hz, 1H), 7.99 (d, J=2 Hz, 1H), 7.69 (dd, JA=2 Hz, JB=9 Hz, 1H), 4.07 (s, 3H). APCI-LCMS m/z 336 (M+H)+.

reactant | methyl 7-hydroxy-3-isoquinolinecarboxylate | 10.3 mmol, 2.09 g | OC1=CC=C2C=C(N=CC2=C1)C(=O)OC | C11H9NO3
reactant | trifluoromethanesulfonic anhydride | 12.3 mmol, 2.08 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3-isoquinolinecarboxylate | 1.48 g | FC(S(=O)(=O)OC1=CC=C2C=C(N=CC2=C1)C(=O)OC)(F)F | C12H8F3NO5S
